US04200572
Methyl cis-4-oxo-3-phenoxyacetylaminoazetidine-2-carboxylate
To 900 ml of acetonitrile, which had been thoroughly degassed with argon, was added 30.0 g (0.070 mole) of methyl cis-1-(2,4-dimethoxybenzyl)-4-oxo-3-phenoxyacetylaminoazetidine-2-carboxylate and the solid was rinsed into the reaction vessel with an additional 50 ml of degassed acetonitrile. This solution was heated to 78° under argon and to it was added a degassed solution of 75.6 g (0.28 mole) of potassium persulfate and 37.5 g (0.14 mole) of sodium monohydrogen phosphate in 1400 ml of water. Addition of the aqueous solution was made in six portions of 250 ml over a period of 1 hour while maintaining the external temperature between 78° and 82°. After cooling the reaction mixture, the acetonitrile was removed by evaporation. Sodium chloride was added to the concentrated reaction mixture and it was extracted four times with ethyl acetate. The combined ethyl acetate extracts were dried (MgSO4), filtered and concentrated in vacuo to approximately 100-200 ml. Addition of ether (ca. 300 ml) followed by low temperature (-25° C.) crystallization afforded the title compound; tlc: silica gel GF, ethyl acetate, Rf=0.44; ethyl acetate:benzene (1:1), RF=0.21; mp 140°-141° (ethyl acetate-hexane).

reactant | methyl cis-1-(2,4-dimethoxybenzyl)-4-oxo-3-phenoxyacetylaminoazetidine-2-carboxylate | 0.070 mole, 30.0 g | COC1=C(CN2[C@H]([C@H](C2=O)NC(COC2=CC=CC=C2)=O)C(=O)OC)C=CC(=C1)OC | C22H24N2O7
reactant | potassium persulfate | 0.28 mole, 75.6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium monohydrogen phosphate | 0.14 mole, 37.5 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | water | 1400 ml | O | H2O
product | Methyl cis-4-oxo-3-phenoxyacetylaminoazetidine-2-carboxylate | O=C1[C@@H]([C@@H](N1)C(=O)OC)NC(COC1=CC=CC=C1)=O | C13H14N2O5
